US07960369B2
3-[4-[[3-[isobutyl(phenyl)amino]benzyl]oxy]phenyl]propanoic acid
The title compound was synthesized in the same manner as in Example 302 from methyl 3-[4-[(3-anilinobenzyl)oxy]phenyl]propanoate and isobutyl bromide. beige powder (yield 12%). MS (APCI−): 402 (M−H).

reactant | methyl 3-[4-[(3-anilinobenzyl)oxy]phenyl]propanoate | N(C1=CC=CC=C1)C=1C=C(COC2=CC=C(C=C2)CCC(=O)OC)C=CC1 | C23H23NO3
reactant | isobutyl bromide | C(C(C)C)Br | C4H9Br
product | 3-[4-[[3-[isobutyl(phenyl)amino]benzyl]oxy]phenyl]propanoic acid | C(C(C)C)N(C=1C=C(COC2=CC=C(C=C2)CCC(=O)O)C=CC1)C1=CC=CC=C1 | C26H29NO3
